US04051246
trans-(4-Hydroxycyclohexyl)-1H-benz[de]isoquinoline-1,3-(2H)-dione
7.5 g. (0.0378 moles) of naphthalic anhydride and 4.35 g. (0.0378 moles) of trans-4-aminocyclohexanol are refluxed in 250 ml. of n-butanol for 2 hours. After standing overnight at room temperature, crude product crystallizes and is removed from the reaction mixture by filtration. This material is dissolved in chloroform. The chloroform solution is washed with 10% sodium hydroxide, then water, and is finally evaporated. The residue is recrystallized from ethanol to yield 4.78 g. of trans-4-(hydroxycyclohexyl)-1H-benz[de]isoquinoline-1,3(2H)-dione; m.p. 245°-246°.

reactant | naphthalic anhydride | 0.0378 moles | C1(=CC=CC2=CC=CC=C12)C(=O)OC(=O)C1=CC=CC2=CC=CC=C12 | C22H14O3
reactant | trans-4-aminocyclohexanol | 0.0378 moles | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | n-butanol | C(CCC)O | C4H10O
product | trans-(4-Hydroxycyclohexyl)-1H-benz[de]isoquinoline-1,3-(2H)-dione | O[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=3C2=C(C1=O)C=CC3)=O | C18H17NO3
